US06476253B1
It is moreover known from another class of substances that re action of 3, 5-diacetyl-1,2,4-trimethoxybenzene with peracetic acid provides 5-acetoxy-3acetyl-1,2,4-trimethoxybenzene as byproduct in 30% yield (H.H. Lee et al., J. Chem. Soc. 1965, 2743-2749).

reactant | 3, 5-diacetyl-1,2,4-trimethoxybenzene | C(C)(=O)C=1C(=C(C=C(C1OC)C(C)=O)OC)OC | C13H16O5
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
product | 5-acetoxy-3acetyl-1,2,4-trimethoxybenzene | 30% yield | C(C)(=O)OC=1C(=C(C(=C(C1)OC)OC)C(C)=O)OC | C13H16O6
